US04857527
To a solution of diketene (23.0 ml) in diethyl ether (115 ml) was added dropwise a solution of N-(2aminoethyl)morpholine (34.7 g) in diethyl ether (300 ml) at -40° C. After stirring for 2 hours at the same condition, the resulting precipitates were collected by filtration and dried in vacuo to give N-(2morpholinoethyl)acetoacetamide (41.1 g).

reactant | diketene | 23.0 ml | C=C1CC(=O)O1 | C4H4O2
reactant | N-(2aminoethyl)morpholine | 34.7 g | NCCN1CCOCC1 | C6H14N2O
solvent | diethyl ether | 115 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | N-(2morpholinoethyl)acetoacetamide | 41.1 g | O1CCN(CC1)CCNC(CC(=O)C)=O | C10H18N2O3
